US07375087B2
Benzyl 2-amino-2-methylpropionate
Benzyl 2-amino-2-methylpropionate hydrochloride (1.48 g) was dissolved in ethyl acetate (60 mL) and a saturated aqueous sodium hydrogen carbonate solution (20 mL), and the organic layer was separated. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (1.2 g).

reactant | Benzyl 2-amino-2-methylpropionate hydrochloride | 1.48 g | Cl.NC(C(=O)OCC1=CC=CC=C1)(C)C
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-amino-2-methylpropionate | 1.2 g | NC(C(=O)OCC1=CC=CC=C1)(C)C | C11H15NO2
